US07494992B2
(1S,2R,4aS,5S,8R,8aR)-1-({[(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazin-2-yl]carbonyl}oxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-2-yl methyl butanedioate
A mixture of (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 139, 100 mg, 0.19 mmol), commercially available 4-(methyloxy)-4-oxobutanoic acid (50 mg, 0.38 mmol), 4-dimethylaminopyridine (60 mg, 0.5 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (90 mg, 0.58 mmol) and dichloromethane (5 ml) was stirred for 18 h and the reaction mixture concentrated in vacuo. The crude product was purified by chromatography on a Biotage® 12M column eluting with dichloromethane:diethyl ether (4:1). The pure fractions were combined and the solvent removed in vacuo to give the title product (23 mg, 18%).

reactant | (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.19 mmol, 100 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)O)O | C27H35ClN2O6
reactant | 4-(methyloxy)-4-oxobutanoic acid | 0.38 mmol, 50 mg | COC(CCC(=O)O)=O | C5H8O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.58 mmol, 90 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.5 mmol, 60 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5S,8R,8aR)-1-({[(2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazin-2-yl]carbonyl}oxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-2-yl methyl butanedioate | 23 mg, 18% | C(CCC(=O)OC)(=O)O[C@H]1[C@@H]([C@]2([C@@H](CC[C@@H]([C@@H]2C=C1C)C(=C)C)C)O)OC(=O)[C@@H]1C[C@@]2([C@@H](ON(C3=C2C=CC=C3Cl)C)N1)O | C32H41ClN2O9
